US04284634
A mixture of diethyl 2-methyl-4-(2-methoxycarbonylphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (2.6 g), hydroxylamine hydrochloride (495 mg) and sodium acetate (691 mg) in acetic acid (20 ml) was stirred at room temperature for an hour to form diethyl 2-methyl-4-(2-methoxycarbonylphenyl)-6-hydroxyiminomethyl-1,4-dihydropyridine-3,5-dicarboxylate. To the reaction mixture was added acetic anhydride (2.18 ml) and the mixture was heated at 110° C. for 3.5 hours with stirring. Acetic acid was distilled off under reduced pressure from the reaction mixture and the resultant residue was adjusted to pH 8 with an aqueous sodium bicarbonate solution and extracted with ethyl acetate. The ethyl acetate extracts were washed with water, and saturated aqueous sodium chloride solution, dried over magnesium sulfate and then evaporated to dryness. The resultant oil (2.88 g) was chromatographed on a column of silica-gel (72 g), and eluted with a mixture of benzene and ethyl acetate (10:1, v/v) to give an oil (1.6 g), which was triturated with diisopropyl ether (3 ml) to give crystalline powder (1.3 g). Recrystallization from a mixture (20 ml) of diisopropyl ether and ethanol (15:1, v/v) gave pure crystals of diethyl 2-methyl-4-(2-methoxycarbonylphenyl)-6-cyano-1,4-dihydropyridine-3,5-dicarboxylate (1.03 g), mp 126° to 127° C.

reactant | diethyl 2-methyl-4-(2-methoxycarbonylphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 2.6 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)C(=O)OC)C(=O)OCC)C=O | C21H23NO7
reactant | hydroxylamine hydrochloride | 495 mg | Cl.NO
reactant | sodium acetate | 691 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | diethyl 2-methyl-4-(2-methoxycarbonylphenyl)-6-hydroxyiminomethyl-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)C(=O)OC)C(=O)OCC)C=NO | C21H24N2O7
